US06277877B1
5-Chloro-1H-indole-2-carboxylic acid ((1S)-methyl-2-morpholin-4-yl-2-oxo-ethyl)-amide
(2S)-Amino-1-morpholin-4-yl-propan-1-one hydrochloride (195 mg, 1.0 mmol) and 5-chloro-1H-indole-2-carboxylic acid (195 mg, 1.0 mmol) were coupled according to procedure A (washed with 1 N NaOH after acid washes) giving crude product which was triturated with ether and dried. Yield 150 mg, 45%: HPLC (60/40) 3.61 minutes (100%); PBMS 336/338 (MH+, 100%);

reactant | (2S)-Amino-1-morpholin-4-yl-propan-1-one hydrochloride | 1.0 mmol, 195 mg | Cl.N[C@H](C(=O)N1CCOCC1)C
reactant | 5-chloro-1H-indole-2-carboxylic acid | 1.0 mmol, 195 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | NaOH | 1 N | [OH-].[Na+]
product | 5-Chloro-1H-indole-2-carboxylic acid ((1S)-methyl-2-morpholin-4-yl-2-oxo-ethyl)-amide | C[C@@H](C(=O)N1CCOCC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C16H18ClN3O3
